US08471005B2
Bromo-(4-nitro-phenyl)-acetic acid methyl ester (547 mg, 2.00 mmol) was dissolved in ethanol (5.50 mL) and N,N′-dimethyl-ethane-1,2-diamine (1.07 mL, 9.98 mmol) was added. The reaction was stirred at room temperature for 30 minutes and then concentrated under reduced pressure. Purification by silica gel chromatography using a gradient of 0-10% MeOH/DCM as the eluting solvent to obtain 1,4-dimethyl-3-(4-nitro-phenyl)-piperazin-2-one as an orange solid (450 mg, 90%). m.p.=99-102° C.; LCMS (m/e) 250 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.19 (d, 2H, J=8.6 Hz), 7.61 (d, 2H, J=8.6 Hz), 3.83 (s, 1H), 3.81-3.70 (m, 1H), 3.26-3.18 (m, 1H), 3.08-3.00 (m, 1H), 2.97 (s, 3H), 2.78-2.68 (m, 1H), 2.18 (s, 3H).

reactant | Bromo-(4-nitro-phenyl)-acetic acid methyl ester | 2.00 mmol, 547 mg | COC(C(C1=CC=C(C=C1)[N+](=O)[O-])Br)=O | C9H8BrNO4
reactant | N,N′-dimethyl-ethane-1,2-diamine | 9.98 mmol, 1.07 mL | CNCCNC | C4H12N2
solvent | ethanol | 5.50 mL | C(C)O | C2H6O
product | 1,4-dimethyl-3-(4-nitro-phenyl)-piperazin-2-one | 450 mg, 90% | CN1C(C(N(CC1)C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H15N3O3
